US04460599
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(aminocarbonylmethylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate
A mixture of mitomycin A (40 mg, 0.11 mmol) and glycinamide (42 mg) in 3.5 ml of absolute ethanol was stirred at room temperature for 4 hours. The solvent was evaporated under reduced pressure and the residue was purified by preparative thin-layer chromatography using a pre-coated silica-gel plate (2 mm thickness) and a mixture of ethanol and ethyl acetate (1:3 by volume) as developing solvent. The blue zone was eluted with ethanol and evaporated under reduced pressure to give 12.8 mg (29.7% yield) of the desired product having a melting point of 124°-126° C. and providing the following analysis:

reactant | mitomycin A | 0.11 mmol, 40 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | glycinamide | 42 mg | NCC(=O)N | C2H6N2O
solvent | ethanol | 3.5 ml | C(C)O | C2H6O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(aminocarbonylmethylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate | 12.8 mg, 29.7% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)NCC(=O)N)C)=O)CC1C2N1)OC | InChI=1S/C16H20N4O5.CH3NO2/c1-6-11(18-3-9(17)22)14(24)10-7(5-21)16(25-2)15-8(19-15)4-20(16)12(10)13(6)23;2-1(3)4/h7-8,15,18-19,21H,3-5H2,1-2H3,(H2,17,22);2H2,(H,3,4)
